US08258144B2
N4-(3-amino-2,2-dimethylpropyl)-N2-(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine
A mixture of N-(3-amino-2,2-dimethylpropyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-amine (70 mg, 0.28 mmol), 6-aminoindazole (93 mg, 0.70 mmol) and trimethylsilyl chloride (0.100 mL, 0.72 mmol) in nBuOH (2 mL) was heated at 116° C. overnight. It was then purified by HPLC to give the titled compound (15 mg). MS 351.4 (M+H); UV 206.1, 242.6, 304.3 nm.

reactant | N-(3-amino-2,2-dimethylpropyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.28 mmol, 70 mg | NCC(CNC=1C2=C(N=C(N1)Cl)NC=C2)(C)C | C11H16ClN5
reactant | 6-aminoindazole | 0.70 mmol, 93 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | trimethylsilyl chloride | 0.72 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | N4-(3-amino-2,2-dimethylpropyl)-N2-(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 15 mg | NCC(CNC=1C2=C(N=C(N1)NC1=CC=C3C=NNC3=C1)NC=C2)(C)C | C18H22N8
